US07935688B2
(2) Synthesis of 4-[1-ethyl-1-(3-methyl-4-trimethylsilanylethynyl-phenyl)-propyl]-2-methyl-phenol
Triethylamine (25.1 mL, 180.09 mmol), ethynyltrimethylsilane (25.5 mL, 180.09 mmol), CuI (1.143 g, 6.00 mmol) and tetrakis(triphenylphosphine)palladium (0) (6.93 g, 6.00 mmol) were added to a solution of trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester (Example 1-(1); 25 g, 60.03 mmol) in acetonitrile (300 mL) at room temperature, and the mixture was stirred at 110° C. for 18 hours and concentrated under reduced pressure. Ethyl acetate and water were added to the residue, and a 1 N hydrochloric acid aqueous solution was added to adjust the pH to about 7. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by a silica gel column (hexane/ethyl acetate=15/1) to give the title compound (16 g, 74%).

reactant | Triethylamine | 180.09 mmol, 25.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 180.09 mmol, 25.5 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester | 60.03 mmol, 25 g | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C20H23F3O4S
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
catalyst | CuI | 6.00 mmol, 1.143 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 6.00 mmol, 6.93 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[1-ethyl-1-(3-methyl-4-trimethylsilanylethynyl-phenyl)-propyl]-2-methyl-phenol | 16 g, 74% | C(C)C(CC)(C1=CC(=C(C=C1)C#C[Si](C)(C)C)C)C1=CC(=C(C=C1)O)C | C24H32OSi
